US09290451B2
N-(2-Cyanopropan-2-yl)-5-cyclopropyl-6-(cyclopropylmethoxy)picolinamide
The title compound was synthesized in analogy to Example 1, using 5-cyclopropyl-6-cyclopropylmethoxy-pyridine-2-carboxylic acid (Example 42 a) and 2-amino-2-methyl-propanenitrile, (CAN 19355-69-2) as starting materials, LC-MS (UV peak area/ESI) 89%, 300.1702 (M+H)+.

reactant | 5-cyclopropyl-6-cyclopropylmethoxy-pyridine-2-carboxylic acid | C1(CC1)C=1C=CC(=NC1OCC1CC1)C(=O)O | C13H15NO3
reactant | 2-amino-2-methyl-propanenitrile | NC(C#N)(C)C | C4H8N2
product | N-(2-Cyanopropan-2-yl)-5-cyclopropyl-6-(cyclopropylmethoxy)picolinamide | C(#N)C(C)(C)NC(C1=NC(=C(C=C1)C1CC1)OCC1CC1)=O | C17H21N3O2
